data/mechanism_extracts/JOC/10.1021_acs.joc.5c00049_sup_1.json
{"doi": "10.1021_acs.joc.5c00049_sup_1", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical bromocyclization of N-tosyl alkynyl alkenes mediated by an aryl iodide catalyst to form bromo-substituted pyrrolidine/heterocyclic products.", "mechanism_family": ["radical_anodic", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of [C2MPr]Br (ammonium bromide electrolyte) occurs first (Eox ≈ 1.21 V) to generate Br radical species; the aryl iodide (p-Tol-I) likely acts as a redox mediator. Cathode reduces protons/solvent.", "key_intermediates": [{"name": "bromine radical (Br•) from anodic oxidation of bromide", "smiles": "[Br]", "role": "reactive"}, {"name": "carbon-centered radical from Br• addition to alkene/alkyne of substrate 1a", "smiles": null, "role": "transient"}, {"name": "hypervalent aryl-iodine species from p-Tol-I oxidation (proposed mediator)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes bromide (and/or aryl iodide mediator) to generate a Br-centered radical, which adds to the alkyne/alkene of substrate 1a; the resulting carbon radical undergoes intramolecular cyclization and is terminated by a second bromine atom transfer to give the dibrominated heterocycle.", "rate_determining_step": null, "probe_reagents": [{"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Addition of 10 equiv DPE under standard conditions completely suppressed formation of product 2a (N.R.), consistent with a free-radical pathway."}], "evidence_types_used": ["intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "CV shows oxidation of [C2MPr]Br (~1.21 V) is easier than that of 4-iodotoluene (~2.09 V) and substrate 1a, indicating bromide is oxidized first at the anode; the aryl iodide may still act as a redox mediator under turnover conditions. Radical trapping with DPE is suggestive but, as the authors note, inconclusive on its own."}
